US08975417B2
Step 33.1: 2(1-iminoethyl)-4-nitrophenol
A mixture of 2-hydroxy-5-nitroacetophenone (2.96 g, 16.34 mmol) and ammonia in MeOH (11.67 mL, 82 mmol) was stirred for 1 hr at rt. The reaction mixture was concentrated to afford the crude title product (2.94 g, 16.32 mmol, 100% yield) as a yellow solid. tR: 0.53 min (LC-MS 2); ESI-MS: 181 [M+H]+ (LC-MS 2).

reactant | 2-hydroxy-5-nitroacetophenone | 16.34 mmol, 2.96 g | CC(=O)C1=C(C=CC(=C1)[N+](=O)[O-])O | C8H7NO4
reactant | ammonia | N | H3N
reactant | MeOH | 82 mmol, 11.67 mL | CO | CH4O
product | 2(1-iminoethyl)-4-nitrophenol | 16.32 mmol, 2.94 g, 100% yield | N=C(C)C1=C(C=CC(=C1)[N+](=O)[O-])O | C8H8N2O3
